US06392077B1
In the same apparatus and procedure as Example 1 above, 0.44 g (1.50 mmol) of tetrabutylphosphonium chloride, 0.95 g (7.5 mmol) of 1,4-dichlorobutane, and 10.16 g (75.0 mmol) of trichlorosilane were reacted at 150° C. for 20 hrs. The resulting mixture was distilled to give 2.02 g of 1,4-bis(trichlorosilyl)butane (yield; 83%).

reactant | 1,4-dichlorobutane | 7.5 mmol, 0.95 g | ClCCCCCl | C4H8Cl2
reactant | trichlorosilane | 75.0 mmol, 10.16 g | Cl[SiH](Cl)Cl | Cl3HSi
catalyst | tetrabutylphosphonium chloride | 1.50 mmol, 0.44 g | [Cl-].C(CCC)[P+](CCCC)(CCCC)CCCC
product | 1,4-bis(trichlorosilyl)butane | 2.02 g, yield; 83% | Cl[Si](CCCC[Si](Cl)(Cl)Cl)(Cl)Cl | C4H8Cl6Si2
